** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/DECODER.sch
**.subckt DECODER VDD XY XZ X Y YZ Z VSS
*.ipin XY
*.ipin XZ
*.iopin VDD
*.iopin VSS
*.iopin X
*.ipin YZ
*.iopin Y
*.iopin Z
x1 VSS VDD XZ YZ Z Z
x2 YZ XY VDD Y VSS yGates
x3 VDD XY X XZ VSS xGates
**.ends

* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/Z.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/Z.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/Z.sch
.subckt Z VSS VDD XZ YZ out
*.iopin VSS
*.iopin VDD
*.ipin XZ
*.ipin YZ
*.opin out
XM4 net1 YZ out VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VDD XZ net1 VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 VSS YZ out VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 VSS XZ out VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/yGates.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/yGates.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/yGates.sch
.subckt yGates YZ XY VDD output VSS
*.ipin VDD
*.ipin VSS
*.ipin YZ
*.ipin XY
*.opin output
x2 VDD net1 XY VSS invertor
x3 YZ VDD net1 output VSS andGate
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/xGates.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/xGates.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/xGates.sch
.subckt xGates VDD XY output XZ VSS
*.ipin XY
*.opin output
*.ipin VDD
*.ipin VSS
*.ipin XZ
x2 XY VDD XZ output VSS andGate
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/invertor.sym # of pins=4
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/invertor.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/invertor.sch
.subckt invertor VDD output In VSS
*.opin output
*.ipin In
*.ipin VDD
*.ipin VSS
XM4 output In VDD VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VSS In output VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  a_zonetic2026/XSCHEM/DECODER/andGate.sym # of pins=5
** sym_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/andGate.sym
** sch_path: /foss/designs/a_zonetic2026/XSCHEM/DECODER/andGate.sch
.subckt andGate A VDD B output VSS
*.ipin VDD
*.ipin B
*.ipin A
*.ipin VSS
*.opin output
XM4 output net1 VDD VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VSS net1 output VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 VDD A net1 VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 VDD B net1 VDD pfet_06v0 L=1.0u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 VSS A net2 VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 net2 B net1 VSS nfet_06v0 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
